US07435815B2
[(4-tert-Butyl-benzenesulfonyl)-(1H-indazol-6-yl)-amino]-acetic acid
prepared by reaction of 4-tert-butyl-N-(1H-indazol-6-yl)-benzenesulfonamide with tert-butyl bromoacetate

reactant | 4-tert-butyl-N-(1H-indazol-6-yl)-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C2C=NNC2=C1 | C17H19N3O2S
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | [(4-tert-Butyl-benzenesulfonyl)-(1H-indazol-6-yl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=CC=C2C=NNC2=C1)CC(=O)O | C19H21N3O4S
